US07595315B2
Add TBDMSCl (4.6 g, 30.5 mmol) to a solution of o-cresol (3 g, 28 mmol) and imidazole (2.08 g, 30.5 mmol) in 25 ml of dry DMF and stir at room temperature. After 7 h, pour the reaction into H2O and extract with hexane twice. Combine the organic layers, wash with H2O, dry over Na2SO4, filter and concentrate under reduced pressure to give a residue. Purify the residue by column chromatography on silica gel eluting with hexane to afford pure (1,1-dimethylethyl)dimethyl(2-methylphenoxy)silane as colourless oil. Add AIBN (330 mg, 1.98 mmol) to a solution of NBS (3.87 g, 21.76 mmol) and (1,1-dimethylethyl)dimethyl(2-methylphenoxy)silane (4.4 g, 19.78 mmol) in 100 ml of CCl4 and stir at reflux for 6 h. Concentrate the solvent under reduced pressure, add hexane and filter the solid. Wash the hexane with a saturated aqueous solution of NaHCO3 and H2O. Dry the organic phase over Na2SO4, filter and concentrate under reduced pressure to obtain [2-(bromomethyl)phenoxy](1,1-dimethylethyl)dimethylsilane as colourless oil.

reactant | TBDMSCl | 30.5 mmol, 4.6 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | o-cresol | 28 mmol, 3 g | C1(=CC=CC=C1O)C | C7H8O
reactant | imidazole | 30.5 mmol, 2.08 g | N1C=NC=C1 | C3H4N2
reactant | H2O | O | H2O
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | (1,1-dimethylethyl)dimethyl(2-methylphenoxy)silane | CC(C)(C)[Si](OC1=C(C=CC=C1)C)(C)C | C13H22OSi
